US05136042
In a similar apparatus to Example 1, 10.0 g (0.07 mole) of 2-methylthiazole-5-carboxylic acid were suspended in 100 ml of xylene, followed by the addition of 0.03 g of triethylenediamine. Under heating and reflux, phosgene was blown at a rate of 930 ml/hr for 6 hours (0.25 mole). After completion of the blowing, stirring was continued for additional 2 hours. After completion of the reaction, the reaction mixture was filtered and the filtrate was concentrated to obtain 10.5 g of 2-methylthiazole-5-carboxylic acid chloride. Its purity and yield were 96.0% and 92.8%, respectively.

reactant | 2-methylthiazole-5-carboxylic acid | 0.07 mole, 10.0 g | CC=1SC(=CN1)C(=O)O | C5H5NO2S
reactant | triethylenediamine | 0.03 g | C1CN2CCN1CC2 | C6H12N2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-methylthiazole-5-carboxylic acid chloride | 10.5 g | CC=1SC(=CN1)C(=O)Cl | C5H4ClNOS
